US05912342
5-Hydroxy-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline
2.35 g (15.9 mmol) 5-hydroxy-1,2,3,4-tetrahydroisoquinoline, 1.92 mL (19.0 mmol) methyltrifluoroacetate and 15 mL DMF were mixed and stirred for over night at room temperature. The reaction mixture was diluted with dichloromethane, washed with water containing one drop of dil. hydrochloric acid and with aqueous sodium chloride. After drying over Na2SO4 and evaporation to dryness, the product was purified by silicagel chromatography (system C). Yield quantitative. 1H NMR (CDCl3, 400 MHz): 8.15 (1H, bd), 7.06 (1H, t, 8.1 Hz), 6.6-6.9 (2H, m), 4.75 (2H, ss), 3.86 (2H, m), 2.90 (2H, m).

reactant | 5-hydroxy-1,2,3,4-tetrahydroisoquinoline | 15.9 mmol, 2.35 g | OC1=C2CCNCC2=CC=C1 | C9H11NO
reactant | methyltrifluoroacetate | 19.0 mmol, 1.92 mL | COC(C(F)(F)F)=O | C3H3F3O2
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Hydroxy-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline | OC1=C2CCN(CC2=CC=C1)C(C(F)(F)F)=O | C11H10F3NO2
